US07713979B2
Combine trans-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-carbamic acid benzyl ester (23.0 g, 0.06 mol), palladium, 10% wt. on activated carbon (0.5 g), in EtOAc (100 mL) and charge the flask with hydrogen (50 psi). After 3 hours, filter the reaction mixture through a pad of Celite® and evaporate the solvent to obtain trans-4-(tert-butyl-dimethyl-silanyloxy)-cyclohexylamine as a dark oil (14.4 g, 99%): MS (EI) m/z=229 (M+).

reactant | trans-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-carbamic acid benzyl ester | 0.06 mol, 23.0 g | C(C1=CC=CC=C1)OC(N[C@@H]1CC[C@H](CC1)O[Si](C)(C)C(C)(C)C)=O | C20H33NO3Si
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | palladium | [Pd] | Pd
product | trans-4-(tert-butyl-dimethyl-silanyloxy)-cyclohexylamine | 14.4 g, 99% | C(C)(C)(C)[Si](O[C@@H]1CC[C@H](CC1)N)(C)C | C12H27NOSi
